US05834506
5-tert-Butyl-2-methyl-4-thiocyanato-phenol
In a 5 L flask were placed 350 g (2.13 mol) of 5-tert-butyl-2-methyl-phenol, sodium thiocyanide (555 g, 6.85 mol) and MeOH (1400 mL), and the resulting mixture cooled to 7° C. A solution of sodium bromide (214 g, 2.08 mol), bromine (126 mL, 2.38 mol), and MeOH (1800 mL) was added slowly and the temperature raised to 40° C. over a period of 30 minutes. The precipitants were filtered and the filtrate concentrated by half. Saturated sodium carbonate (3.5 L) and H2O (4.5 L) were added. The mixture was extracted with EtOAc (3 L), and the organic layers were combined and concentrated. To this residue were added t-butylmethyl ether (500 mL) and hexanes (500 mL), and the mixture was allowed to stand for 17 hours at -5° C. The precipitants were filtered to give the title compound, m.p. 99°-102° C. 1H NMR (CDCl3) δ 1.46 (s, 9 H), 2.22 (s, 3 H), 5.01 (s, 1 H), 6.89 (s, 1 H), 7.49 (s, 1 H).

reactant | 5-tert-butyl-2-methyl-phenol | 2.13 mol, 350 g | C(C)(C)(C)C=1C=CC(=C(C1)O)C | C11H16O
reactant | sodium thiocyanide | 6.85 mol, 555 g | S(C#N)C#N.[Na]
reactant | sodium bromide | 2.08 mol, 214 g | [Br-].[Na+]
reactant | bromine | 2.38 mol, 126 mL | BrBr | Br2
solvent | MeOH | 1800 mL | CO | CH4O
solvent | MeOH | 1400 mL | CO | CH4O
product | 5-tert-Butyl-2-methyl-4-thiocyanato-phenol | C(C)(C)(C)C=1C(=CC(=C(C1)O)C)SC#N | C12H15NOS
